US06660753B2
A solution of 2-cyano-3-chloropyridine (1 g, 7.22 mmol) in 1-methyl-2-pyrrolidinone (25 mL) was treated with potassium fluoride (1.26 g, 21.68 mmol) and heated at reflux for 18 hours. After cooling, the reaction was diluted with ethyl acetate and extracted with water and brine. Silica gel chromatography afforded 442 mg (50%) of 2-cyano-3-fluoropyridine.

reactant | 2-cyano-3-chloropyridine | 7.22 mmol, 1 g | C(#N)C1=NC=CC=C1Cl | C6H3ClN2
reactant | potassium fluoride | 21.68 mmol, 1.26 g | [F-].[K+]
solvent | 1-methyl-2-pyrrolidinone | 25 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-cyano-3-fluoropyridine | 442 mg, 50% | C(#N)C1=NC=CC=C1F | C6H3FN2
